US07709517B2
4-isothiocyanato-2-trifluoromethylbenzonitrile, (1a)
4-Amino-2-trifluoromethylbenzonitrile, (2.23 g, 12 mmol) was added portionwise over 15 minutes into the well-stirred heterogeneous mixture of thiophosgene (1 ml, 13 mmol) in water (22 ml) at room temperature. Stirring was continued for an additional 1 h. The reaction medium was extracted with chloroform (3×15 ml). The combined organic phase was dried over MgSO4 and evaporated to dryness under reduced pressure to yield desired product, 4-isothiocyanato-2 -trifluoromethylbenzonitrile, (1a), as brownish solid and was used as such for the next step (2.72 g, 11.9 mmol, 99%).

reactant | 4-Amino-2-trifluoromethylbenzonitrile | 12 mmol, 2.23 g | NC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H5F3N2
reactant | thiophosgene | 13 mmol, 1 ml | C(=S)(Cl)Cl | CCl2S
solvent | water | 22 ml | O | H2O
product | 4-isothiocyanato-2-trifluoromethylbenzonitrile | N(=C=S)C1=CC(=C(C#N)C=C1)C(F)(F)F | C9H3F3N2S
